US05378677
N-[2-(2-Fluorobenzyloxy)-ethoxy]-phthalimide
108 ml of triethylamine were added dropwise to a mixture of 165 g (0.71 mol) of 1-bromo-2-(2-fluorobenzyloxy)-ethane, 116 g (0.7 mol) of N-hydroxylphthalimide and 710 ml of N-methyl-2-pyrrolidinone at from 20° to 25° C. in the course of 1 hour. After 5 hours at 60° C., the cold reaction mixture was poured into 200 ml of ice water and the precipitate was filtered off under suction, washed with water and isopropanol and dried under reduced pressure over phosphorus pentoxide.

reactant | triethylamine | 108 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-2-(2-fluorobenzyloxy)-ethane | 0.71 mol, 165 g | BrCCOCC1=C(C=CC=C1)F | C9H10BrFO
reactant | N-hydroxylphthalimide | 0.7 mol, 116 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | N-methyl-2-pyrrolidinone | 710 ml | CN1C(CCC1)=O | C5H9NO
product | N-[2-(2-Fluorobenzyloxy)-ethoxy]-phthalimide | FC1=C(COCCON2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C17H14FNO4
